US06677349B1
Using the general method of Example 232, 1-(4-aminobutyl)-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine (1.00 g, 3.7 mmol) was reacted with methanesulfonyl chloride (0.46 mL, 5.9 mmol) to provide 0.16 g of N-[4-(4-amino-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]methanesulfonamide as an off white solid, m.p. 229.4-230.5° C. Analysis: Calculated for C16H21N5O2S.0.25 H2O: %C, 54.60; %H, 6.16; %N, 19.90; Found: %C, 54.80; %H, 6.24; %N, 19.58.

reactant | 1-(4-aminobutyl)-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine | 3.7 mmol, 1.00 g | NCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)C | C15H19N5
reactant | methanesulfonyl chloride | 5.9 mmol, 0.46 mL | CS(=O)(=O)Cl | CH3ClO2S
product | N-[4-(4-amino-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]methanesulfonamide | 0.16 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCNS(=O)(=O)C)C | C16H21N5O2S
